US07612079B2
(2-Chloro-9-cyclopentyl-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine
(2-Chloro-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine (799 mg, 2.5 mmol) was dissolved in dry DMF (10 mL). NaH (78 mg, 3.25 mmol) was added in portions and the resulting mixture was stirred for 1 h. Cyclopentyl bromide (633 mg, 4.25 mmol) was then added and the reaction was stirred overnight at 80° C. under N2. After cooling, H2O (50 mL) was added and the mixture was extracted with CH2Cl2 (3×25 mL). The combined extracts were washed with brine (2×25 mL), dried over MgSO4, and evaporated. The residue was purified by flash chromatography (95:5 CH2Cl2/Et2O) to afford the title compound as a white powder (451 mg, 46.5%). TLC (95:5 CH2Cl2/Et2O): RF=0.27.

reactant | (2-Chloro-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine | 2.5 mmol, 799 mg | ClC1=NC(=C2N=CNC2=N1)NCC1=CC(=C(C=C1)OC)OC | C14H14ClN5O2
reactant | NaH | 3.25 mmol, 78 mg | [H-].[Na+]
reactant | Cyclopentyl bromide | 4.25 mmol, 633 mg | C1(CCCC1)Br | C5H9Br
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-Chloro-9-cyclopentyl-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine | 451 mg, 46.5% | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC1=CC(=C(C=C1)OC)OC | C19H22ClN5O2
